US06756378B2
To a stirred solution of (S)-2-(N-tert-butoxycarbonylamino)-1-propanol (0.90 g, 5.13 mmol), methyl 4-hydroxy-3-nitrobenzoate (1.01 g, 5.12 mmol), and Ph3P (1.75 g, 6.67 mmol) in THF (15 mL) was added diisopropyl azodicarboxylate (DIAD) (1.31 mL, 6.65 mmol) at room temp, and the resulting mixture was heated under reflux overnight. The solution was evaporated and the residue was dissolved in CH2Cl2 (20 mL) and TFA (10 mL). The mixture was stirred at room temp for 3 hr. The mixture was concentrated in vacuo. The residue was dissolved in CHCl3, washed with sat. NaHCO3, brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography on silica-gel with 5% MeOH in CHCl3 as eluent to give 313 mg (24%) methyl(S)-3-nitro-4-(2-amino-1-propoxy)benzoate as a pale yellow oil: 1H-NMR (CDCl3) δ1.22 (d, 3 H, J=6.8 Hz), 3.43-3.48 (m, 1 H), 3.69-3.87 (m, 2 H), 3.89 (x 3 H), 6.93-6.95 (m, 1H), 7.99-8.02 (m, 1 H), 8.18-8.21 (m, 1 H).

reactant | (S)-2-(N-tert-butoxycarbonylamino)-1-propanol | 5.13 mmol, 0.90 g | C(C)(C)(C)OC(=O)N[C@H](CO)C | C8H17NO3
reactant | methyl 4-hydroxy-3-nitrobenzoate | 5.12 mmol, 1.01 g | OC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | Ph3P | 6.67 mmol, 1.75 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diisopropyl azodicarboxylate | 6.65 mmol, 1.31 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | methyl(S)-3-nitro-4-(2-amino-1-propoxy)benzoate | 313 mg, 24% | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1OC[C@H](C)N | C11H14N2O5
